US05962682
Analogously to Example 77, by condensing methyl 3-amino-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate with 4-(trifluoromethyl)-benzenesulphonyl chloride there was obtained methyl 4-(2-chloro-5-methoxy-phenoxy)-3-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-5-(4-trifluoromethyl-benzenesulphonylamino)-benzoate and therefrom by treatment with 5.5M HCl there was obtained methyl 4-(2-chloro-5-methoxy-phenoxy)-3-(2-hydroxy-ethoxy)-5-(4-trifluoromethyl-benzenesulphonylamino)-benzoate.

reactant | methyl 3-amino-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | NC=1C=C(C(=O)OC)C=C(C1OC1=C(C=CC(=C1)OC)Cl)OCCOC1OCCCC1 | C22H26ClNO7
reactant | 4-(trifluoromethyl)-benzenesulphonyl chloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | methyl 4-(2-chloro-5-methoxy-phenoxy)-3-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-5-(4-trifluoromethyl-benzenesulphonylamino)-benzoate | ClC1=C(OC2=C(C=C(C(=O)OC)C=C2NS(=O)(=O)C2=CC=C(C=C2)C(F)(F)F)OCCOC2OCCCC2)C=C(C=C1)OC | C29H29ClF3NO9S
